US07452893B2
Step 3: cis-[3-(Methoxy-methyl-carbamoyl)-cyclobutyl]-acetic acid tert-butyl ester
To an ice cold solution of 1.74 g of cis-3-tert-butoxycarbonylmethyl-cyclobutanecarboxylic acid, 3 mL of N-methyl-piperidine, and 50 mL of dichloromethane was added 1.7 mL of isobutyl chloroformate drop-wise over 5 min. After an additional 5 min, 1.6 g of N-methyl-N-methoxy-amine hydrochloride was added and the mixture allowed to warm with stirring overnight. The resulting mixture was diluted with 100 mL of dichloromethane, washed with 100 mL of water, 100 mL of 0.1 N HCl, 50 mL of saturated sodium carbonate and dried over magnesium sulfate. The solution was diluted with 50 mL of toluene and concentrated under reduced pressure. Drying under vacuum overnight gave 2.08 g of product as a colorless thick oil: MS (m+1)=258.3; 1H NMR (400 MHz, CDCl3) 3.62 (s, 3H), 3.16 (s, 3H), 2.35 (d, 2H), 2.0 (dd, 1H), 1.4 (s, 9H).

reactant | cis-3-tert-butoxycarbonylmethyl-cyclobutanecarboxylic acid | 1.74 g | C(C)(C)(C)OC(=O)C[C@H]1C[C@H](C1)C(=O)O | C11H18O4
reactant | N-methyl-piperidine | 3 mL | CN1CCCCC1 | C6H13N
reactant | isobutyl chloroformate | 1.7 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl-N-methoxy-amine hydrochloride | 1.6 g | Cl.CNOC
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | cis-[3-(Methoxy-methyl-carbamoyl)-cyclobutyl]-acetic acid tert-butyl ester | 2.08 g | C(C)(C)(C)OC(C[C@@H]1C[C@@H](C1)C(N(C)OC)=O)=O | C13H23NO4
